US06333324B1
To a solution of (2R)-4-methanesulfonylpiperazine-2-carboxylic acid hydrochloride (2.10 g) in H2O (20 ml) and dioxane (20 ml) were added NaHCO3 (2.38 g) and a solution of benzyloxycarbonyl chloride (1.76 g) in Et2O (10 ml) at room temperature. After stirring for 2 hours, Et2O and dioxane were evaporated in vacuo. The solution was acidified with 1N HCl and extracted with AcOEt (80 ml). The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo to give 3.0 g of (2R)-1-benzyloxycarbonyl-4-methanesulfonylpiperazine-2-carboxylic acid as an amorphous powder.

reactant | (2R)-4-methanesulfonylpiperazine-2-carboxylic acid hydrochloride | 2.10 g | Cl.CS(=O)(=O)N1C[C@@H](NCC1)C(=O)O
reactant | NaHCO3 | 2.38 g | C(=O)(O)[O-].[Na+]
reactant | benzyloxycarbonyl chloride | 1.76 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | H2O | 20 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | 10 ml | CCOCC | C4H10O
product | (2R)-1-benzyloxycarbonyl-4-methanesulfonylpiperazine-2-carboxylic acid | 3.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CN(CC1)S(=O)(=O)C)C(=O)O | C14H18N2O6S
